US07037987B2
Synthesis of N-(mesityl)-3-(2-hydroxyphenyl)-4,5-dihydro-imidazolium chloride
N-(Mesityl)-N′-(2-hydroxyphenyl)-oxalamide (1.47 g, 4.9 mmol, 1 eq), prepared according to the synthesis method described in Example 3, was weighed into an oven-dried round-bottom flask. To this was added BH3-THF (1M in THF) (39 ml, 39.2 mmol, 8 eq). A great deal of bubbling resulted, as the solution turned bright orange. The solution was allowed to reflux overnight. The next day, the solution was observed to have turned clear. The solution was then allowed to cool to room temperature. Methanol was then very slowly added to the solution until all bubbling ceased. Concentrated HCl solution (1.5 ml) was then added, and the solvent was removed under reduced pressure. The resulting solid was dissolved in methanol, and then the solvent was again removed under reduced pressure. This process was repeated twice more. In this way, the remaining boron was removed as B(OMe)3. Triethylorthoformate (15 ml) was then added to the resulting solid, forming a suspension. The suspension was then heated to 100° C. As the suspension was heated, the solid was observed to slowly go into solution. After aproximately one minute at high temperature, a white solid precipitated. It was allowed to stir for five more minutes, and was then filtered. The resulting solid was washed with ether, to provide the desired product as a white powder (0.854 g, 2.7 mmol, 55% yield). 1H NMR (300 MHz, CDCl3) δ 11.43 (s, 1H), 8.84 (s, 1H), 7.54 (dd, J=8.25, 1.2 Hz, 1H), 7.05 (dd, J=8.0, 1.2 Hz, 1H), 6.92 (m, 2H), 6.73 (dt, J=7.7, 0.9 Hz 1H), 4.80 (t, J=11.4 Hz, 2H), 4.37 (t, J=11.7 Hz, 2H), 2.33 (s, 3H), 2.29 (s, 6H); 13C NMR (75 MHz, CDCl3) δ 157.4, 150.0, 141.0, 135.3, 130.7, 130.3, 128.8, 122.8, 120.4, 119.9, 118.8, 51.0, 50.4, 21.3, 18.2. Anal. Calcd for C18H21ClN2O: C, 68.24; H, 6.68; N, 8.84. Found: C, 67.86; H, 6.92; N, 8.52.

reactant | N-(Mesityl)-N′-(2-hydroxyphenyl)-oxalamide | 4.9 mmol, 1.47 g, 1 eq | C1(=C(C(=CC(=C1)C)C)NC(C(=O)NC1=C(C=CC=C1)O)=O)C | C17H18N2O3
reactant | BH3-THF | 39.2 mmol, 1M, 39 ml, 8 eq | B.C1CCOC1
reactant | HCl | 1.5 ml | Cl | ClH
solvent | Methanol | CO | CH4O
product | N-(mesityl)-3-(2-hydroxyphenyl)-4,5-dihydro-imidazolium chloride | 2.7 mmol, 0.854 g, 55% yield | [Cl-].C1(=C(C(=CC(=C1)C)C)[N+]1=CN(CC1)C1=C(C=CC=C1)O)C | InChI=1S/C18H20N2O.ClH/c1-13-10-14(2)18(15(3)11-13)20-9-8-19(12-20)16-6-4-5-7-17(16)21;/h4-7,10-12H,8-9H2,1-3H3;1H
